US07691877B2
N2,N2-Diallyl-N4-benzyl-5,6-dimethyl-3-nitro-pyridine-2,4-diamine
Benzyl-(2-chloro-5,6-dimethyl-3-nitro-pyridin-4-yl)-amine (1.2 g, 4.1 mmol) was dissolved in ethoxyethanol (60 mL) and diisopropylethylamine (1.1 mL, 6.2 mmol) and diallylamine (0.76 mL, 6.2 mmol) added in one portion. The reaction mixture was heated in a sealed vessel at 100° C. overnight, and then concentrated in vacuo to an orange residue. This residue was purified directly by column chromatography on silica gel, using a gradient of 8:1→1:1 pentane:EtOAc as eluant to provide the title compound as a bright orange oil (938 mg, 65%).

reactant | Benzyl-(2-chloro-5,6-dimethyl-3-nitro-pyridin-4-yl)-amine | 4.1 mmol, 1.2 g | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1C)C)Cl)[N+](=O)[O-] | C14H14ClN3O2
reactant | diisopropylethylamine | 6.2 mmol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diallylamine | 6.2 mmol, 0.76 mL | C(C=C)NCC=C | C6H11N
solvent | ethoxyethanol | 60 mL | C(C)OC(C)O | C4H10O2
product | N2,N2-Diallyl-N4-benzyl-5,6-dimethyl-3-nitro-pyridine-2,4-diamine | 938 mg, 65% | C(C=C)N(C1=NC(=C(C(=C1[N+](=O)[O-])NCC1=CC=CC=C1)C)C)CC=C | C20H24N4O2
